US05124489
The procedure of Example 2 was repeated with a solution of 2.00 g (10.2) mmol) 4-hydroxyphenylglyoxal dimethyl acetal in 10 g methanol containing 0.37 g (10.2 mmol) hydrogen chloride and a 0.20 g dry 10% Pd/C catalyst being reacted with hydrogen gas pressurized at 50 psig at 25° C. A 47% yield of 4-(2'-methoxyethyl)phenol was obtained.

reactant | 4-hydroxyphenylglyoxal dimethyl acetal | COC(C=O)(C1=CC=C(C=C1)O)OC | C10H12O4
reactant | methanol | 10.2 mmol, 10 g | CO | CH4O
product | 4-(2'-methoxyethyl)phenol | 47% yield | COCCC1=CC=C(C=C1)O | C9H12O2
